US06093732
4-(Aminomethyl)benzonitrile
Triphenylphosphine (7.67 g) is added to a solution of 4-(azidomethyl)-benzonitrile (4.19 g) in THF (30 mL) and stirred for 1 hr. Water (10 mL) is added, and the solution is stirred for 16 hrs. The reaction mixture is diluted with ether (50 mL) and extracted with HCl (3 N, 3×25 mL) and water (1×25 mL). The aqueous phases are combined and washed with ether (50 mL). Sodium hydroxide is added until the pH =12. After extracting with ether (2×50 mL), the solution is dried with MgSO4 and filtered. The solvent is evaporated under reduced pressure. The resulting crude mixture is then purified via bulb to bulb distillation at 150° C. and 1 torr to afford 1.74 g (50%) of the title compound as a clear, colorless oil.

reactant | Triphenylphosphine | 7.67 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(azidomethyl)-benzonitrile | 4.19 g | N(=[N+]=[N-])CC1=CC=C(C#N)C=C1 | C8H6N4
reactant | Water | 10 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | ether | 50 mL | CCOCC | C4H10O
product | 4-(Aminomethyl)benzonitrile | 1.74 g, 50% | NCC1=CC=C(C#N)C=C1 | C8H8N2
